US06248739B1
N-(4-Chlorobenzyl)-1-[2-(2-methoxyethoxy)ethyl]-6-[(methylsulfanyl)methyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide
To a suspension of N-(4-chlorobenzyl)-6-(chloromethyl)-1-[2-(2-methoxyethoxy)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide (175 mg) prepared as described in Example No. 84, in DMF (1.5 11) is added sodium thiomethoxide (40 mg). The mixture is stirred for 18 h, then added to 25 ml of rapidly stirred water. The solid is filtered, washed well with water, dried in vacuo, and recrystallized from acetonitrile to afford 139 mg of the title compound as pale yellow crystals.

reactant | N-(4-chlorobenzyl)-6-(chloromethyl)-1-[2-(2-methoxyethoxy)ethyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 175 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CCl)CCOCCOC)C=C1 | C23H24Cl2N2O4
reactant | sodium thiomethoxide | 40 mg | C[S-].[Na+]
reactant | water | O | H2O
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-1-[2-(2-methoxyethoxy)ethyl]-6-[(methylsulfanyl)methyl]-4-oxo-1,4-dihydro-3-quinolinecarboxamide | 139 mg | ClC1=CC=C(CNC(=O)C2=CN(C3=CC=C(C=C3C2=O)CSC)CCOCCOC)C=C1 | C24H27ClN2O4S
